US07601870B2
N-(4-Amino-2-bromo-6-trifluoromethyl-phenyl)-3-cyclohexyl-propionamide
Acetic acid (3.70 mL) was added slowly to a mixture of zinc dust (7.88 g) and N-(2-bromo-4-nitro-6-trifluoromethyl-phenyl)-3-cyclohexyl-propionamide (1.99 g) in tetrahydrofuran (40 mL). The reaction mixture was then stirred for 1½ hours at 25° C. The reaction mixture was filtered, diluted with saturated aqueous sodium bicarbonate (400 mL) and extracted with ethyl acetate (3×100 mL). The combined organic phases were washed with water (100 mL), brine (100 mL), dried over sodium sulfate and concentrated in vacuo to furnish 1.85 g (100% yield) of the title compound as a yellow solid. LC-MS (m/z) 394 (MH+); tR=3.22, (UV, ELSD) 92%, 99%. 1H NMR (500 MHz, DMSO-d6): 0.86 (q, 2H), 1.17 (m, 3H), 1.26 (m, 1H), 1.46 (q, 2H), 1.67 (m, 5H), 2.40 (t, 2H), 5.83 (s, 2H), 6.88 (d, 1H), 7.07 (d, 1H), 9.27 (s, 1H).

reactant | Acetic acid | 3.70 mL | C(C)(=O)O | C2H4O2
reactant | N-(2-bromo-4-nitro-6-trifluoromethyl-phenyl)-3-cyclohexyl-propionamide | 1.99 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)NC(CCC1CCCCC1)=O | C16H18BrF3N2O3
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | zinc | 7.88 g | [Zn] | Zn
product | N-(4-Amino-2-bromo-6-trifluoromethyl-phenyl)-3-cyclohexyl-propionamide | 1.85 g, 100% yield | NC1=CC(=C(C(=C1)C(F)(F)F)NC(CCC1CCCCC1)=O)Br | C16H20BrF3N2O
